US08193236B2
5-Bromo-2-(1-ethoxycarbonyl-ethoxy)-benzoic acid methyl ester
A mixture of 5-bromo-2-hydroxy-benzoic acid methyl ester (25.0 g, 103 mmol), 2-bromo-propionic acid ethyl ester (18.6 g, 103 mmol) and potassium carbonate (50.2 g, 360 mmol) in acetone (500 mL) is heated under reflux for 24 h. The reaction mixture is filtered, and the filtrate concentrated by rotary evaporation. The residue is dissolved in dichloromethane and washed twice with water. The organic layer is dried over Na2SO4, filtered and concentrated at reduced pressure to afford the title compound as a colorless oil (34.1 g, 103 mmol, 100%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.91 (d, J=2.7 Hz, 1H), 7.49 (dd, J=8.8, 2.7 Hz, 1H), 6.75 (d, J=8.8Hz, 1H), 4.71 (q, J=6.8Hz, 1H), 4.20 (q, J=7.1 Hz, 2H), 3.88 (s, 3H), 1.65 (d, J=6.8 Hz, 3H), 1.23 (t, J=7.1 Hz, 3H). MS (ES+): 331 (M(C13H1579BrO5)+H)+.

reactant | 5-bromo-2-hydroxy-benzoic acid methyl ester | 103 mmol, 25.0 g | COC(C1=C(C=CC(=C1)Br)O)=O | C8H7BrO3
reactant | 2-bromo-propionic acid ethyl ester | 103 mmol, 18.6 g | C(C)OC(C(C)Br)=O | C5H9BrO2
reactant | potassium carbonate | 360 mmol, 50.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 5-Bromo-2-(1-ethoxycarbonyl-ethoxy)-benzoic acid methyl ester | 103 mmol, 34.1 g, 100% | COC(C1=C(C=CC(=C1)Br)OC(C)C(=O)OCC)=O | C13H15BrO5
